US05207818
To a mixture consisting of 5-fluoro-2-nitrophenol (47.1 g), acetonitrile (300 ml) and potassium carbonate (46 g) was added ethyl bromoacetate (60.1 g) dropwise at a temperature from 50° to 60° C., followed by a five-hour refluxing under heating and then filtration under cooling. The resulting filtrate was subjected to distillation under reduced pressure, and then dissolved in toluene (350 ml). The resulting toluene solution was washed with water, a 5% aqueous solution of potassium hydroxide, and water, in that order, followed by drying with magnesium sulfate and the toluene was distilled off therefrom under reduced pressure. The residue was distilled under reduced pressure to collect a fraction boiling at from 154° to 156° C., so as to obtain ethyl 5-fluoro-2-nitrophenoxyacetate (65.3 g). The whole quantity of the reaction product was dissolved in ethanol (8.1 l), followed by addition thereto of a solution of ammonium chloride (60 g) and water (400 ml). To the resulting mixture was added zinc dust (60.5 g) portionwise at a temperature of from 20° to 30° C.

reactant | 5-fluoro-2-nitrophenol | 47.1 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | potassium carbonate | 46 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 60.1 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | ethyl 5-fluoro-2-nitrophenoxyacetate | 65.3 g | FC=1C=CC(=C(OCC(=O)OCC)C1)[N+](=O)[O-] | C10H10FNO5
